US08044041B2
A mixture 6-bromo-4-chloro-2H-phthalazin-1-one (153 mg, 0.590 mmol), 2-(aminomethyl)pyridine (0.066 mL, 0.646 mmol), Pd2(dba)3 (49 mg, 0.0535 mmol), rac-BINAP (113 mg, 0.181 mmol) and NaOtBu (160 mg, 1.665 mmol) in DMA (5 mL) was heated at 85° C. for 1.5 h. The mixture was allowed to cool, diluted with EtOAc and washed with water. The organic layer was washed with sat.aq. NaHCO3, brine and dried (Na2SO4). Chromatography on silica (EtOAc/hexanes) afforded 4-chloro-6-[(pyridin-2-ylmethyl)-amino]-2H-phthalazin-1-one (3 mg) as a yellow brown solid, 1H (400 MHz, d6-DMSO) δ: 4.53 (d, 2H), 6.84 (s, 1H), 7.18 (dd, 1H), 7.28 (m, 1H), 7.38 (d, 1H), 7.75 2H), 7.92 (d, 1H), 8.55 (d, 1H), 12.35 (s, 1H) ppm; m/z (M+1) 286.99.

reactant | 6-bromo-4-chloro-2H-phthalazin-1-one | 0.590 mmol, 153 mg | BrC=1C=C2C(=NNC(C2=CC1)=O)Cl | C8H4BrClN2O
reactant | 2-(aminomethyl)pyridine | 0.646 mmol, 0.066 mL | NCC1=NC=CC=C1 | C6H8N2
reactant | rac-BINAP | 0.181 mmol, 113 mg | C=1C=CC(=CC1)P(C=2C=CC=CC2)C3=CC=C4C=CC=CC4=C3C5=C6C=CC=CC6=CC=C5P(C=7C=CC=CC7)C=8C=CC=CC8 | C44H32P2
reactant | NaOtBu | 1.665 mmol, 160 mg | CC(C)(C)[O-].[Na+]
solvent | DMA | 5 mL | CC(=O)N(C)C | C4H9NO
solvent | EtOAc | CCOC(=O)C | C4H8O2
catalyst | Pd2(dba)3 | 0.0535 mmol, 49 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | 4-chloro-6-[(pyridin-2-ylmethyl)-amino]-2H-phthalazin-1-one | 3 mg | ClC1=NNC(C2=CC=C(C=C12)NCC1=NC=CC=C1)=O | C14H11ClN4O
